US07148228B2
4-Chloro-1-(4-chloro-3,5-dimethyl-pyridin-2-ylmethyl)-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine
A mixture of 4-chloro-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine (158 mg), crude 4-chloro-2-chloromethyl-3,5-dimethyl-pyridine (204 mg), Cs2CO3 (660 mg) and DMF was heated to 80° C. for 1.5 h, diluted with EtOAc and washed with water. The crude material was concentrated and suspended in MeOH/DCM. Filtration gave a 2:1 mixture of regioisomers which was further purified by preparative silica gel plate (EtOAc 100%). The major (less polar) isomer corresponded to the title compound. R.t. 5.45 min. 1H-NMR (CDCl3) δ 8.22 (s, 1H), 7.90 (s, 1H), 5.57 (s, 2H), 5.28 (s, 2H), 2.43 (s, 3H), 2.31 (s, 3H).

reactant | 4-chloro-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine | 158 mg | ClC1=C2C(=NC(=N1)N)NN=C2 | C5H4ClN5
reactant | 4-chloro-2-chloromethyl-3,5-dimethyl-pyridine | 204 mg | ClC1=C(C(=NC=C1C)CCl)C | C8H9Cl2N
reactant | Cs2CO3 | 660 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Chloro-1-(4-chloro-3,5-dimethyl-pyridin-2-ylmethyl)-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine | ClC1=C2C(=NC(=N1)N)N(N=C2)CC2=NC=C(C(=C2C)Cl)C | C13H12Cl2N6
